US07094790B2
2-(S)-Methanesulfonyloxymethyl-azetidine-1-carboxylic acid tert-butyl ester
2-(S)-Hydroxymethyl-azetidine-1-carboxylic acid tert-butyl ester (prepared as described in Abreo, et al. J. Med. Chem. 1996, 39, 817–825) (9.7 g, 52 mmol) was taken up in dichloromethane (50 mL), treated with triethylamine (8.7 mL, 62 mmol), cooled to 0° C., treated dropwise with methanesulfonyl chloride (4.4 mL, 57 mmol), stirred overnight at ambient temperature, treated with sodium bicarbonate solution (50 mL) and the layers were separated. The aqueous layer was extracted with dichloromethane (50 mL). The combined organic layers were dried (MgSO4), filtered, concentrated and chromatographed on silica gel eluting with a gradient of 10:1, 5:1, 2:1 and 3:2 hexane:ethyl acetate to provide 10.7 g (78%). 1H NMR (300 MHz, CDCl3) δ 1.45 (s, 9 H) 2.27 (m, 2 H) 3.05 (s, 3 H) 3.82 (m, 2 H) 4.28 (dd, J=10.85, 2.71 Hz, 1 H) 4.43 (m, 1 H) 4.54 (dd, J=10.85, 4.07 Hz, 1 H).

reactant | 2-(S)-Hydroxymethyl-azetidine-1-carboxylic acid tert-butyl ester | 52 mmol, 9.7 g | C(C)(C)(C)OC(=O)N1[C@@H](CC1)CO | C9H17NO3
reactant | triethylamine | 62 mmol, 8.7 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 57 mmol, 4.4 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-(S)-Methanesulfonyloxymethyl-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COS(=O)(=O)C | C10H19NO5S
